US05891899
To a solution of ethyl hydrogen malonate (4.38 g, 33.2 mmol) in dry tetrahydrofuran (100 ml) cooled under an atmosphere of nitrogen to -60° C. with efficient stirring was added a solution of n-butyllithium in hexane (2.5M, 26.5 ml) rapidly dropwise, allowing the temperature to rise to -10° C. during the addition. After stirring the resulting suspension for 15 min at -10° C. it was recooled to -70° C. and a solution of 3-methoxy-4-methoxycarbonylbenzoyl chloride (4.46 g, 19.5 mmol) in dry tetrahydrofuran (30 ml) added dropwise. After addition, the reaction mixture was allowed to warm to room temperature and after 1 h diluted with cold aqueous hydrochloric acid (2M, 35 ml) and ice. The mixture was extracted with diethyl ether (200 ml) and the extract washed twice with a saturated solution of sodium bicarbonate, water and a saturated solution of sodium chloride. The organic layer was dried over magnesium sulphate, filtered and evaporated. The residue was purified on flash silica eluting with dichloromethane to give ethyl 3-methoxy-4-methoxycarbonylbenzoylacetate as an oil.

reactant | ethyl hydrogen malonate | 33.2 mmol, 4.38 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-methoxy-4-methoxycarbonylbenzoyl chloride | 19.5 mmol, 4.46 g | COC=1C=C(C(=O)Cl)C=CC1C(=O)OC | C10H9ClO4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 26.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2M, 35 ml | Cl | ClH
product | ethyl 3-methoxy-4-methoxycarbonylbenzoylacetate | COC=1C=C(C(=O)CC(=O)OCC)C=CC1C(=O)OC | C14H16O6
